US04775671
35.7 g (118 mmol) of (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde are heated to boiling under reflux for 6 hours together with 9.52 g (137 mmol) of hydroxylamine hydrochloride and 14.6 g (214 mmol) of sodium formate in 178 ml of formic acid. The solution obtained is then poured into 2.5 l of water; the precipitated product is filtered off under suction and rinsed with water. After recrystallization from methylene chloride/ethyl acetate there is obtained (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile of melting point 236°-237°.

reactant | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carboxaldehyde | 118 mmol, 35.7 g | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C=O)CCC1)=O | C15H12ClN3O2
reactant | hydroxylamine hydrochloride | 137 mmol, 9.52 g | Cl.NO
reactant | sodium formate | 214 mmol, 14.6 g | C(=O)[O-].[Na+]
reactant | water | 2.5 l | O | H2O
solvent | formic acid | 178 ml | C(=O)O | CH2O2
product | (S)-8-chloro-11,12,13,13a-tetrahydro-9-oxo-9H-imidazo[1,5-a]pyrrolo[2,1-c][1,4]benzodiazepine-1-carbonitrile | ClC1=CC=CC2=C1C(N1[C@H](C=3N2C=NC3C#N)CCC1)=O | C15H11ClN4O
